Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Paxil
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
BiPAP non-invasive ventilation

 
History of Present Illness:
___ with history of CHF presenting for evaluation of sudden 
onset SOB today. She lives at home with a home health aid. The 
home health aid called the patients daughter this afternoon 
stating that when she went to the patients house she had still 
not taken any of her morning medications. She was mildly SOB and 
the daughter was on her way over when the home health aid called 
to informed her that SOB was worsening. They called EMS and she 
was taken to the ED. Per report she became progressively SOB en 
route and could not tolerate CPAP. Full CODE per EMS. Triggered 
on arrival for hypoxia. 

In the ED, initial vitals were:  97.2 169/84 104 24 78/RA; 
subsequently 129/93, 113, 36, 100% w/ BIPAP and remained 
persistently tachycardic in 100s and tachypneic in high ___ in 
ED on BIPAP
Exam:  
Labs: ABG: pH 7.16, pCO2 67, pO2 91, HCO3 25; Lactate 4.3; h/h 
13.9/46.0, wbc 10.0; Cr 1.2, K 4.3, Na 143; lip 38; UA w/ 600 
pro; tox screen negative 
Imaging:
- CXR: Mild to moderate pulmonary edema with probable trace 
right pleural effusion. Large hiatal hernia with bibasilar 
patchy opacities, potentially atelectasis, however infection or 
aspiration cannot be completely excluded.  
- EKG: Afib, old anterior infarct 
Consults:  
Patient was given: Lasix 40mg IV, lorazepam 0.5mg, started on 
nitro drip.  
Decision was made to admit to CCU for heart failure

Vitals on transfer were: 98.9, 71, 110/48, 19, 93% RA   
On the floor, patient is sleeping but arousable and able to 
answer some questions. Speech is mildly garbled. She is able to 
state her name but is not oriented to location, date or year. 
She denies chest pain. Denies abdominal pain. 
 
Of note, per the conversation with the patients daughter, she 
has mild dementia.   
 
REVIEW OF SYSTEMS:  
(+) per HPI  
Cardiac review of systems unable to be obtained in the setting 
of patient being confused. 
 
Past Medical History:
Atrial fibrillation on rivaroxaban
Hypertension
Hypothyroidism 
Hyperlipidemia 
Chronic back pain
 
Social History:
___
Family History:
Mother, died in ___, GI cancer
Father, died in ___, CAD
Brotheer, died, CAD  
 
Physical Exam:
=======================
ADMISSION EXAM:
=======================
VS: 96.6, 122/77, 88, 25, 95% 6L NC 
Weight: 56.7kg  
Tele: Afib 
GEN: AOx1, sleeping, opens eyes to command 
HEENT: PERRL, moist mucus membranes
NECK: supple, JVP not grossly elevated 
CV: Irregularly irregular 
LUNGS: Decreased breath sounds bilateral bases with crackles mid 
way up poster lung fields, poor inspiratory effort 
ABD: +BS, soft, non tender, non distended, no rebound or 
guarding 
EXT: WWP, trace pretibial edema bilaterally 
SKIN:  no concerning lesions
NEURO:  AOx1, unable to participate in CN exam, squeezing 
bilateral hands on command, grossly non focal. 
=======================
DISCHARGE EXAM:
=======================
Vitals:  98.3 98.2 ___ 16 99RA
Tele: a-fib, no substantial events
Last 24 hours I/O: +1050/-2200
Last 8 hours I/O: +180/-225
Weight on admission: NR
Today's weight: 53.6kg <- 53.5
GEN: AOx3, alert, awake 
 HEENT: PERRL, moist mucus membranes  
 NECK: supple, JVP not grossly elevated  
 CV: Irregularly irregular, no murmurs
 LUNGS: clear to auscultation in all fields, no wheezes or 
rhonchi  
 ABD: +BS, soft, non tender, non distended, no rebound or 
guarding  
 EXT: WWP, no edema noted
 SKIN: no concerning lesions  
 NEURO: AOx3, grossly non focal.  

 
Pertinent Results:
========================
ADMISSION LABS:
========================
___ 07:48PM BLOOD WBC-10.0 RBC-4.71 Hgb-13.9 Hct-46.0* 
MCV-98 MCH-29.5 MCHC-30.2* RDW-14.7 RDWSD-53.1* Plt ___
___ 07:48PM BLOOD ___ PTT-31.7 ___
___ 07:48PM BLOOD Glucose-266* UreaN-26* Creat-1.2* Na-139 
K-7.7* Cl-112* HCO3-16* AnGap-19
___ 07:48PM BLOOD ALT-16 AST-75* AlkPhos-23* TotBili-0.6
___ 07:48PM BLOOD Calcium-10.3 Phos-6.3* Mg-2.4
___ 07:45PM BLOOD Glucose-264* Lactate-4.3* Na-143 K-4.3 
Cl-107
========================
PERTINENT RESULTS:
========================
LABS:
========================
___ 07:48PM BLOOD proBNP-3845*
___ 07:30AM BLOOD WBC-6.9 RBC-4.23 Hgb-12.4 Hct-39.7 MCV-94 
MCH-29.3 MCHC-31.2* RDW-14.8 RDWSD-50.8* Plt ___
___ 07:30AM BLOOD ___ PTT-37.7* ___
___ 01:00PM BLOOD Glucose-146* UreaN-34* Creat-1.1 Na-143 
K-4.0 Cl-102 HCO3-32 AnGap-13
___ 09:00PM BLOOD CK-MB-2 cTropnT-<0.01
___ 07:48PM BLOOD CK-MB-2 cTropnT-<0.01 proBNP-3845*
___ 01:00PM BLOOD Calcium-10.0 Phos-3.6 Mg-2.2
___ 07:48PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 11:33AM BLOOD ___ pO2-190* pCO2-41 pH-7.45 
calTCO2-29 Base XS-4 Comment-GREEN TOP 
___ 09:47PM BLOOD ___ pO2-84* pCO2-45 pH-7.36 
calTCO2-26 Base XS-0
___ 11:33AM BLOOD Lactate-1.3
___ 09:47PM BLOOD Lactate-1.9
___ 07:45PM BLOOD Glucose-264* Lactate-4.3* Na-143 K-4.3 
Cl-107
___ 07:45PM BLOOD freeCa-1.40*
___ 07:57PM URINE Color-Yellow Appear-Clear Sp ___
___ 07:57PM URINE Blood-NEG Nitrite-NEG Protein-600 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 07:57PM URINE RBC-1 WBC-1 Bacteri-FEW Yeast-NONE Epi-0
___ 07:57PM URINE CastHy-3*
___ 07:57PM URINE Mucous-RARE
========================
MICROBIOLOGY:
========================
Blood cultures (___) x2: No growth to date.

========================
IMAGING/STUDIES:
========================
CXR (___): Mild to moderate pulmonary edema with probable 
trace right pleural effusion. Large hiatal hernia with bibasilar 
patchy opacities, potentially atelectasis, however infection or 
aspiration cannot be completely excluded. 

CXR (___):  
In comparison with the study of ___, there again is 
substantial 
enlargement of the cardiac silhouette with a large hiatal 
hernia.  However, the degree of pulmonary edema has decreased 
and there is now only mild elevation of pulmonary venous 
pressure. 
Blunting of the costophrenic angle could reflect mild pleural 
effusions with associated atelectasis. 
In the left mid zone, there is an area of increased 
opacification.  This could merely reflect an area of slow 
-improving congestion, though in the 
appropriate clinical setting superimposed pneumonia could be 
considered. 

===
TTE (___): The left atrium is elongated. The right atrium is 
moderately dilated. The estimated right atrial pressure is ___ 
mmHg. There is mild symmetric left ventricular hypertrophy with 
normal cavity size. Left ventricular systolic function is 
hyperdynamic (EF>75%). Doppler parameters are indeterminate for 
left ventricular diastolic function. The right ventricular 
cavity is mildly dilated with normal free wall contractility. 
The aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. Mild (1+) aortic regurgitation is seen. 
The mitral valve leaflets are mildly thickened. There is no 
mitral valve prolapse. There is severe mitral annular 
calcification. An eccentric, anteriorly directed jet of Moderate 
(2+) mitral regurgitation is seen. [Due to acoustic shadowing, 
the severity of mitral regurgitation may be significantly 
UNDERestimated.] Due to the eccentric nature of the regurgitant 
jet, its severity may be significantly underestimated (Coanda 
effect). Moderate to severe [3+] tricuspid regurgitation is 
seen. [Due to acoustic shadowing, the severity of tricuspid 
regurgitation may be significantly UNDERestimated.] There is 
moderate pulmonary artery systolic hypertension. There is no 
pericardial effusion. 

Compared with the prior study (images reviewed) of ___, 
there is slightly less mitral regurgitation (likely 
underestimated due to shadowing and Coanda effect. Other 
findings are similar.  

 
Brief Hospital Course:
Ms. ___ is a ___ y/o woman with history of dCHF, AFib on 
rivaroxaban, HTN, CKD who presented fro sudden onset shortness 
of breath, found to have acute on chronic congestive heart 
failure.

# CORONARIES: None in records 
# PUMP: EF 80%, mild AS/AR, mod/severe MR and TR, moderate 
pulmonary artery hypertension 
# RHYTHM: Atrial fibrillation

====================
ACTIVE ISSUES:
====================
 
# ACUTE ON CHRONIC DIASTOLIC HEART FAILURE: LVEF 80%. Patient 
presented with shortness of breath and was found to be hypoxemic 
requiring BiPAP. She was found to have evidence of pulmonary 
edema on imaging. BNP 3845. The precipitant for the patient's 
decompensation was unclear. She may have been nonadherent with 
medications. Infectious work up was unrevealing. The patient was 
also found to be hypertensive; she may have had an episode of 
flash pulmonary edema. The patient was treated with Lasix 
boluses to good effect, with improvement in her respiratory 
status. She was transitioned to PO furosemide and discharged.

# ATRIAL FIBRILLATION: CHA2DS2-VASc score 5. The patient was 
continued on her home rivaroxaban. She was rate controlled with 
her fractionated home metoprolol.

# TOXIC METABOLIC ENCEPHALOPATHY: The patient had acute delirium 
in the setting of mild underlying dementia. She also received 
Ativan in the ED, which likely also contributed. This resolved 
the morning after admission and did not recur.

====================
CHRONIC ISSUES:
====================
# HTN: Continued metoprolol.
# Hypothyroidism: Continued Levothyroxine Sodium 88 mcg PO DAILY
# Depression: Continued home quetiapine. 
# Hyperlipidemia: Continued home atorvastatin 20mg. Held home 
fenofibrate.  

=========================
TRANSITIONAL ISSUES:
=========================
-She will need close followup with PCP and cardiology for 
continued medication titration for heart failure with preserved 
ejection fraction.
- CODE: Full  
- CONTACT: ___ (daughter, MD) ___
 

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. QUEtiapine Fumarate 25 mg PO QHS 
2. Metoprolol Succinate XL 100 mg PO DAILY 
3. Levothyroxine Sodium 88 mcg PO DAILY 
4. Furosemide 40 mg PO DAILY 
5. Rivaroxaban 15 mg PO DAILY 
6. Atorvastatin 20 mg PO QPM 
7. Potassium Chloride 20 mEq PO DAILY 
8. fenofibrate micronized 134 mg oral DAILY 

 
Discharge Medications:
1. Atorvastatin 20 mg PO QPM 
2. Furosemide 40 mg PO DAILY 
3. Levothyroxine Sodium 88 mcg PO DAILY 
4. Metoprolol Succinate XL 100 mg PO DAILY 
5. QUEtiapine Fumarate 25 mg PO QHS 
6. Rivaroxaban 15 mg PO DAILY 
7. fenofibrate micronized 134 mg ORAL DAILY 
8. Potassium Chloride 20 mEq PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Acute decompensated heart failure with preserved ejection 
fraction

SECONDARY DIAGNOSIS:
Atrial fibrillation
Delirium

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure being part of your care at ___. You were 
admitted to the hospital due to shortness of breath, and were 
found to be in decompensated heart failure. You were given 
non-invasive ventilator  support, and medications to remove 
excess fluid. You breathing then improved.

After discharge, please follow up with your doctors as 
previously planned. 

Thank you for allowing us to be part of your care.

Sincerely, 
Your ___ team
 
Followup Instructions:
___